US04831151
500 mg (1.39 mmol) of 1-(benzylideneamino)-3-(p-chlorobenzyl)-2-ethylimidazolium chloride are subjected to a steam distillation in 5 ml of water and 2 ml of 3N hydrochloric acid until benzaldehyde no longer evolves. The mixture is evaporated and the residue is recrystallized from ethanol/ether. There is obtained 1-amino-3-(p-chlorobenzyl)-2-ethylimidazolium chloride of melting point 223°-225°.

reactant | 1-(benzylideneamino)-3-(p-chlorobenzyl)-2-ethylimidazolium chloride | 1.39 mmol, 500 mg | [Cl-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC1=CC=C(C=C1)Cl)CC
reactant | hydrochloric acid | 3N, 2 ml | Cl | ClH
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | 5 ml | O | H2O
product | 1-amino-3-(p-chlorobenzyl)-2-ethylimidazolium chloride | [Cl-].N[N+]1=C(N(C=C1)CC1=CC=C(C=C1)Cl)CC | InChI=1S/C12H15ClN3.ClH/c1-2-12-15(7-8-16(12)14)9-10-3-5-11(13)6-4-10;/h3-8H,2,9,14H2,1H3;1H/q+1;/p-1
